US07091348B2
8-(6-Ethylamino-3-ethylimino-2,7-dimethyl-3H-xanthen-9-yl)naphthalene-1-carboxylic acid
3-Ethylamino-4-methyl-phenol (0.3 g, 2 mmol) and benzo[de]isochromene-1,3-dione (0.2 g, 1 mmol) in sulfuric acid (3 ml) was heated to 150° C. over a period of 6 h. The reaction mixture was pouring into crushed ice, allowed to stand over a period of 1 h and the precipitate was filtered. The filtrate was neutralized with concentrated ammonium hydroxide and concentrated to give a dark purple residue. Purification via preparatory layer chromatography (PLC, 1 mm silica gel, 9/1 DCM: MeOH, 2% AcOH) gave the title compound (50 mg). ABS λmax=527 nm (EtOH).

reactant | 3-Ethylamino-4-methyl-phenol | 2 mmol, 0.3 g | C(C)NC=1C=C(C=CC1C)O | C9H13NO
reactant | benzo[de]isochromene-1,3-dione | 1 mmol, 0.2 g | C1(OC(C2=C3C(C=CC=C13)=CC=C2)=O)=O | C12H6O3
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 8-(6-Ethylamino-3-ethylimino-2,7-dimethyl-3H-xanthen-9-yl)naphthalene-1-carboxylic acid | 50 mg | C(C)NC=1C=C2OC3=CC(C(=CC3=C(C2=CC1C)C=1C=CC=C2C=CC=C(C12)C(=O)O)C)=NCC | C30H28N2O3
